US04330546
N,N-Dimethyl-3-phenyl-3-(2-pyrazinyloxy)propylamine
Following the method of Example 3, reaction of N,N-dimethyl-3-hydroxy-3-phenylpropylamine, sodium hydride and 2-chloropyrazine in DMSO gives the title compound.

reactant | N,N-dimethyl-3-hydroxy-3-phenylpropylamine | CN(C)CCC(C1=CC=CC=C1)O | C11H17NO
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloropyrazine | ClC1=NC=CN=C1 | C4H3ClN2
solvent | DMSO | CS(=O)C | C2H6OS
product | N,N-Dimethyl-3-phenyl-3-(2-pyrazinyloxy)propylamine | CN(C)CCC(OC1=NC=CN=C1)C1=CC=CC=C1 | C15H19N3O
